US07696200B2
A solution of 4-(5-chloro-2-methoxy-benzenesulfonyl)-3,4-dihydro-2H-quinoxaline-1,6-dicarboxylic acid 1-tert-butyl ester 6-ethyl ester (430 mg, 0.84 mmol) in tetrahydrofuran (10 mL) and methanol (10 mL) was treated with 2N NaOH (5 mL). The mixture was stirred at room temperature for 1 hour. The organic solvents were then partially removed and the residue acidified with HCl 1N (10 mL). The precipitate which formed was filtered, washing with water, and dried under high vacuum. 4-(5-Chloro-2-methoxy-benzenesulfonyl)-3,4-dihydro-2H-quinoxaline-1,6-dicarboxylic acid 1-tert-butyl ester was obtained as a light yellow gum, 386 mg (95%), MS (ISP): m/e=481.1 (M−H), which was used crude in the following reaction.

reactant | 4-(5-chloro-2-methoxy-benzenesulfonyl)-3,4-dihydro-2H-quinoxaline-1,6-dicarboxylic acid 1-tert-butyl ester 6-ethyl ester | 0.84 mmol, 430 mg | C(C)OC(=O)C=1C=C2N(CCN(C2=CC1)C(=O)OC(C)(C)C)S(=O)(=O)C1=C(C=CC(=C1)Cl)OC | C23H27ClN2O7S
reactant | NaOH | 2N, 5 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | methanol | 10 mL | CO | CH4O
product | 4-(5-Chloro-2-methoxy-benzenesulfonyl)-3,4-dihydro-2H-quinoxaline-1,6-dicarboxylic acid 1-tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(C2=CC(=CC=C12)C(=O)O)S(=O)(=O)C1=C(C=CC(=C1)Cl)OC | C21H23ClN2O7S
